US08557805B2
5-{[6-(Methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylic acid
To a solution of ethyl 5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylate (7.3 g) in ethanol (100 mL) and tetrahydrofuran (100 mL) was added 1N aqueous sodium hydroxide solution (32 mL), and the mixture was stirred at room temperature for 15 hr. To the reaction mixture, 1N hydrochloric acid (32 mL) was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was crystallized from ethyl acetate-diethyl ether to give the title compound (5.9 g, yield 86%) as yellow powder.

reactant | ethyl 5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylate | 7.3 g | CS(=O)(=O)C1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C(=O)OCC | C22H24N2O7S
reactant | sodium hydroxide | 1N, 32 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 32 mL | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 5-{[6-(Methylsulfonyl)pyridin-3-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylic acid | 5.9 g, yield 86% | CS(=O)(=O)C1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C(=O)O | C20H20N2O7S
